US08809369B2
A mixture of 2-(3-bromo-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester (0.43 g, 1.1 mmol), 4-isopropoxy benzeneboronic acid (0.40 g, 2.2 mmol), bis(triphenylphosphine)palladium (II) chloride (77.2 mg, 0.11 mmol) and 2 M sodium carbonate (1.6 mL, 3.2 mmol) in dioxane (5 mL) was heated for 3 h at 120° C. After coiling to room temperature, the mixture was treated with ethyl acetate (50 mL) and washed with water (20 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. Purification on flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company) (10% ethyl acetate/hexanes) to afford 2-(4′-isopropoxy-biphenyl-3-yl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester (0.44 g, 90%) as a white solid: MS (ESI) M+1=444.1.

reactant | 2-(3-bromo-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester | 1.1 mmol, 0.43 g | C(C)OC(=O)C=1C=C2C(CC(NC2=CC1)C1=CC(=CC=C1)Br)(C)C | C20H22BrNO2
reactant | 4-isopropoxy benzeneboronic acid | 2.2 mmol, 0.40 g | C(C)(C)OC1=CC=C(C=C1)B(O)O | C9H13BO3
reactant | sodium carbonate | 3.2 mmol, 2 M, 1.6 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.11 mmol, 77.2 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 2-(4′-isopropoxy-biphenyl-3-yl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester | 0.44 g, 90% | C(C)OC(=O)C=1C=C2C(CC(NC2=CC1)C=1C=C(C=CC1)C1=CC=C(C=C1)OC(C)C)(C)C | C29H33NO3
